US08193189B2
4-[1-(4-Bromo-2-methyl-phenyl)-1-methyl-ethyl]-morpholine
A solution of 1-(4-Bromo-2-methyl-phenyl)-1-methyl-ethylamine (preparation 48, 544 mg, 2 mmol), 2,2′-dibromodiethylether (579.8 mg, 2.5 mmol) and N,N-diisopropylethylamine (1.027 ml, 6 mmol) in DMF (7 ml) is heated to 100° C. for 16 h and then allowed to cool to RT. The reaction mixture is partitioned between water and CH2Cl2. The aqueous phase is re-extracted twice, the combined organic phases are dried over Na2SO4 and concentrated in vacuo. The residue is purified by flash chromatography (silicagel, CH2Cl2: EtOAc=1:0=>0:1) to afford the title compound as a pale yellow oil, Rt=0.786 min (Acquity HPLC BEH C18, 2.1×50 mm, 1.7 micron, detection 215 nM, 0.1 min 2% CH3CN in H2O, 2% to 100% CH3CN in H2O in 1.5 min, 0.4 min 100% CH3CN+0.1% TFA, flow rate 1.0 ml/min); MS: 298 (M+1, 79Br)+.

reactant | 1-(4-Bromo-2-methyl-phenyl)-1-methyl-ethylamine | 2 mmol, 544 mg | BrC1=CC(=C(C=C1)C(C)(C)N)C | C10H14BrN
reactant | 2,2′-dibromodiethylether | 2.5 mmol, 579.8 mg | C(CBr)OCCBr | C4H8Br2O
reactant | N,N-diisopropylethylamine | 6 mmol, 1.027 ml | C(C)(C)N(C(C)C)CC | C8H19N
solvent | DMF | 7 ml | CN(C)C=O | C3H7NO
product | 4-[1-(4-Bromo-2-methyl-phenyl)-1-methyl-ethyl]-morpholine | BrC1=CC(=C(C=C1)C(C)(C)N1CCOCC1)C | C14H20BrNO
